US07368578B2
To a mixture of ethyl 1-(4,5-dimethyl-1,3-thiazol-2-yl)piperidine-4-carboxylate (6.51 g), acetonitrile (100 mL) was added N-chlorosuccinimide (3.24 g) at 0° C. The reaction mixture was stirred at 0° C. for 2 hrs. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:3, v/v) to give ethyl 1-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)piperidine-4-carboxylate as colorless crystals (1.93 g, yield 26%). The crystals were recrystallized from ethyl acetate-hexane. melting point: 76-77° C.

reactant | ethyl 1-(4,5-dimethyl-1,3-thiazol-2-yl)piperidine-4-carboxylate | 6.51 g | CC=1N=C(SC1C)N1CCC(CC1)C(=O)OCC | C13H20N2O2S
reactant | N-chlorosuccinimide | 3.24 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | ethyl 1-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)piperidine-4-carboxylate | 1.93 g, yield 26% | ClCC=1N=C(SC1C)N1CCC(CC1)C(=O)OCC | C13H19ClN2O2S
